US05231179
To a suspension of sodium hydride (0.24 g; 10.0 mmol) in tetrahydrofuran (100 ml) was added 4,4-dimethyloxazolidin-2-one (1.15 g; 10.0 mmol) at 0° C., and the resultant suspension was stirred at room temperature for 5 hours. To the gelatinous reaction mixture was added 2-bromopropionyl bromide (1.05 ml) at 0° C. After stirring for 1 hour, a saturated aqueous solution of potassium dihydrogen phosphate was added to quench the reaction. An aqueous layer was extracted with ethyl acetate. Combined organic layers were dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give a solid residue, which was purified by silica gel column chromatography (hexane:dichloromethane=1:1~0:1) to give 3-(2'-bromopropionyl)-4,4-dimethyloxazolidin-2-one (2.35 g, yield, 90%) as colorless crystals.

reactant | sodium hydride | 10.0 mmol, 0.24 g | [H-].[Na+]
reactant | 4,4-dimethyloxazolidin-2-one | 10.0 mmol, 1.15 g | CC1(NC(OC1)=O)C | C5H9NO2
reactant | 2-bromopropionyl bromide | 1.05 ml | BrC(C(=O)Br)C | C3H4Br2O
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(2'-bromopropionyl)-4,4-dimethyloxazolidin-2-one | 2.35 g, 90% | BrC(C(=O)N1C(OCC1(C)C)=O)C | C8H12BrNO3
